US03965100
1,2,3,10-Tetrahydro-6-chloro-10-oxocyclopenta[d]pyrido[1,2-a]pyrimidine-5-carboxylic acid
by substituting 2-amino-4-chloronicotinic acid for the 2-aminonicotinic acid in Example 4, there is obtained the named compound.

reactant | 2-amino-4-chloronicotinic acid | NC1=C(C(=O)O)C(=CC=N1)Cl | C6H5ClN2O2
reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
product | 1,2,3,10-Tetrahydro-6-chloro-10-oxocyclopenta[d]pyrido[1,2-a]pyrimidine-5-carboxylic acid | ClC1=C(C=2N(C(C3=C(N2)CCC3)=O)C=C1)C(=O)O | C12H9ClN2O3
